US04992455
A lM solution (15 ml) of tetrabutylammonium fluoride in tetrahydrofuran was added dropwise to a solution of 3-dimethylaminoethyl-5-(3-t-butyldimethyl-silyloxypropyl)-2-(3-pyridyl)thiazolidin-4-one (2.6 g, 6.02 mmol) in dry tetrahydrofuran (12 ml) under cooling with ice. Then the mixture was stirred at room temperature for 2 hours to complete the reaction. Saturated aqueous NaHCO (10 ml) was added dropwise to the product mixture, and the resulting aqueous layer was extracted 6 times with ethyl acetate. The extract wad dried over MgSO4, and the solvent was removed under reduced pressure. The residual crude product was purified by medium-pressure liquid chromatography (Si-60® Art. 9385, eluent : hexane : ethanol : aqueous ammonia = 3000 : 400 : 50), giving 3-dimethylaminoethyl-5-(3-hydroxypropyl)-2-(3-pyridyl)thiazolidin-4-one (1.7 g, 88% yield).

reactant | tetrabutylammonium fluoride | 15 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-dimethylaminoethyl-5-(3-t-butyldimethyl-silyloxypropyl)-2-(3-pyridyl)thiazolidin-4-one | 6.02 mmol, 2.6 g | CN(C)CCN1C(SC(C1=O)C(CC(C(C)(C)C)(O[SiH3])C)C)C=1C=NC=CC1 | C21H37N3O2SSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 3-dimethylaminoethyl-5-(3-hydroxypropyl)-2-(3-pyridyl)thiazolidin-4-one | 1.7 g, 88% yield | CN(C)CCN1C(SC(C1=O)CCCO)C=1C=NC=CC1 | C15H23N3O2S
